US08076344B2
2-(trimethylsilyl)ethyl cyclohexanecarboxylate
To a mixture of cyclohexanecarboxylic acid (1.28 g, 10 mmol), 2-(trimethylsilyl)ethanol (1.3 g, 11 mmol), 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride (2.11 g, 11 mmol) in dichloromethane was added 4-dimethylaminopyridine (123 mg, 1.0 mmol). The reaction mixture was stirred at room temperature for 3 d. It was partitioned between ethyl acetate and 2N HCl. The organic phase was washed with brine, saturated NaHCO3, brine, dried over MgSO4, filtered and concentrated in vacuuo. The residue was purified by flash chromatograph on silica gel (eluting with 0-20% ethyl acetate in hexane) to provide the title compound as a colorless oil (1.7 g, 75% yield).

reactant | cyclohexanecarboxylic acid | 10 mmol, 1.28 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | 2-(trimethylsilyl)ethanol | 11 mmol, 1.3 g | C[Si](CCO)(C)C | C5H14OSi
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride | 11 mmol, 2.11 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.0 mmol, 123 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(trimethylsilyl)ethyl cyclohexanecarboxylate | 1.7 g, 75% yield | C1(CCCCC1)C(=O)OCC[Si](C)(C)C | C12H24O2Si
